US08247403B2
(2) 4-benzyl-9-bromo-8-fluoro-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one
To a solution of N-benzyl-3-bromo-2,4-difluoro-N-(2-hydroxyethyl)benzamide (4.57 g, 12.3 mmol) in N,N-dimethylformamide (60 ml) was added under ice-cooling sodium hydride (60%, 593 mg, 14.8 mmol), and the mixture was stirred for 2 hr. The reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product (3.23 g, 75.0%) as an oil.

reactant | N-benzyl-3-bromo-2,4-difluoro-N-(2-hydroxyethyl)benzamide | 12.3 mmol, 4.57 g | C(C1=CC=CC=C1)N(C(C1=C(C(=C(C=C1)F)Br)F)=O)CCO | C16H14BrF2NO2
reactant | sodium hydride | 14.8 mmol, 593 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-benzyl-9-bromo-8-fluoro-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one | 3.23 g, 75.0% | C(C1=CC=CC=C1)N1CCOC2=C(C1=O)C=CC(=C2Br)F | C16H13BrFNO2
